US07943788B2
5-Bromo-2-chloro-1-(6-hydroxybenzo[b]thiophen-2-ylmethyl)-benzene (1.8 g) obtained in Reference Example 132-(1) was dissolved in dimethylformamide (15 ml), and added thereto were methyl 2-chloro-2,2-difluoroacetate (1.63 ml) and potassium carbonate (2.28 g), and the mixture was stirred at 100° C. for 1.5 hours under argon atmosphere. The reaction mixture was acidified with 2N aqueous HCl solution and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane) to give 5-bromo-2-chloro-1-(6-difluoromethoxybenzo[b]thiophen-2-yl-methyl)benzene (695 mg) as a colorless solid. GC-Mass m/Z 402/404 (M+).

reactant | 5-Bromo-2-chloro-1-(6-hydroxybenzo[b]thiophen-2-ylmethyl)-benzene | 1.8 g | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=C(C=C2)O)Cl | C15H10BrClOS
reactant | methyl 2-chloro-2,2-difluoroacetate | 1.63 ml | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium carbonate | 2.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-chloro-1-(6-difluoromethoxybenzo[b]thiophen-2-yl-methyl)benzene | 695 mg | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=C(C=C2)OC(F)F)Cl | C16H10BrClF2OS
